US08486967B2
c) 2-[2-[1-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-ylamino]-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol
A solution of 1-(5-methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-ylamine (36.5 mg, 0.2 mmol), 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol (69.1 mg, 0.22 mmol)) and N,N-diisopropylethylamine (52 L, 0.3 mmol) in dioxane (2 mL) was heated at 160° C. in a microwave oven for 5.5 hours. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel with EtOAc/EtOH 9:1 (v/v) as eluent. The title compound was obtained as a white solid (29 mg, 31%).

reactant | 1-(5-methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-ylamine | 0.2 mmol, 36.5 mg | CC1=NN=C(O1)N1CCC(CC1)N | C8H14N4O
reactant | 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol | 0.22 mmol, 69.1 mg | ClC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)C(F)(F)F | C14H12ClF3N2O
reactant | N,N-diisopropylethylamine | 0.3 mmol, 52 L | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[2-[1-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-ylamino]-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol | CC1=NN=C(O1)N1CCC(CC1)NC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)C(F)(F)F | C22H25F3N6O2
